US20010044434A1
c) tert-Butyl 3-iodo-1-azetidinecarboxylate
A mixture of tert-butyl 3-[(methylsulfonyl)oxy]-1-azetidinecarboxylate (prepared as described in Synlett 1998, 379; 5.0 g, 19.9 mmol), and potassium iodide (16.5 g, 99.4 mmol) in N,N-dimethylformamide (25 ml), was heated at 100° C. for 42 h. The cooled mixture was partitioned between water and ethyl acetate, and the layers separated. The organic phase was dried over MgSO4, concentrated under reduced pressure and the residue azeotroped with xylene. The crude product was purified by flash column chromatography (dichloromethane as eluant) to give the title compound, 3.26 g; 1H NMR (300 MHz, CDCl3) δ=1.43 (s, 9H), 4.28 (m, 2H), 4.46 (m, 1H), 4.62 (m, 2H); LRMS (TSP) 284 (MH)+

reactant | tert-butyl 3-[(methylsulfonyl)oxy]-1-azetidinecarboxylate | 19.9 mmol, 5.0 g | CS(=O)(=O)OC1CN(C1)C(=O)OC(C)(C)C | C9H17NO5S
reactant | potassium iodide | 99.4 mmol, 16.5 g | [I-].[K+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 3-iodo-1-azetidinecarboxylate | IC1CN(C1)C(=O)OC(C)(C)C | C8H14INO2
